US05736520
4-Hydroxy-6-phenyl-5-[((phenylmethoxy)carbonyl)amino]-3-oxohexanoic Acid Ethyl Ester
A solution of 2-hydroxy-4-phenyl-3-[((phenylmethoxy)carbonyl)amino]butanoic acid, N-methoxy-N-methylamide (372 mg, 1.0 mmol) in tetrahydrofuran is cooled to -78° C. and ethyl lithioacetate (72 mg, 3.0 mmol) is added. The solution is stirred at -78° C. for 1 hour, allowed to warm to room temperature, stirred for 1 hour and poured into dilute HCl. The product is extracted by ethyl acetate (3×150 ml) and the combined organic extracts are washed with NaHCO3, dried over Na2SO4 and the solvent removed in vacuo. The crude product is purified by flash chromatography on silica gel.

reactant | 2-hydroxy-4-phenyl-3-[((phenylmethoxy)carbonyl)amino]butanoic acid, N-methoxy-N-methylamide | 1.0 mmol, 372 mg | CON(C(C(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O)=O)C | C20H24N2O5
reactant | ethyl lithioacetate | 3.0 mmol, 72 mg | [Li]CC(=O)OCC
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Hydroxy-6-phenyl-5-[((phenylmethoxy)carbonyl)amino]-3-oxohexanoic Acid Ethyl Ester | C(C)OC(CC(C(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O)=O)=O | C22H25NO6
